US06987114B1
1-(Cyclopropyl)methyl-5-ethyl-6-(3,5-dimethylphenyl)thio-2,4-pyrimidinedione
To a solution of 5-ethyl-6-(3,5-dimethylphenyl)thio-2,4-pyrimidinedione 276 mg, 1.0 mmol) and bromomethyl cyclopropane (160 mg, 1.0 mmol, 85%) dissolved in dimethylformamide (5 ml), sodium bicarbonate (126 mg, 1.50 mmol) and lithium iodide (13.0 mg, 0.10 mmol) were added. The resulting mixture was stirred at 90° C. for 24 hrs, distilled under the reduced pressure to remove dimethylformamide and purified with column chromatography to obtain the titled compound as a white solid (152 mg, yield: 46.0%).

reactant | 5-ethyl-6-(3,5-dimethylphenyl)thio-2,4-pyrimidinedione | 1.0 mmol, 276 mg | C(C)C=1C(NC(NC1SC1=CC(=CC(=C1)C)C)=O)=O | C14H16N2O2S
reactant | bromomethyl cyclopropane | 1.0 mmol, 160 mg | BrCC1CC1 | C4H7Br
reactant | sodium bicarbonate | 1.50 mmol, 126 mg | C([O-])(O)=O.[Na+]
reactant | lithium iodide | 0.10 mmol, 13.0 mg | [I-].[Li+]
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 1-(Cyclopropyl)methyl-5-ethyl-6-(3,5-dimethylphenyl)thio-2,4-pyrimidinedione | 152 mg, yield: 46.0% | C1(CC1)CN1C(NC(C(=C1SC1=CC(=CC(=C1)C)C)CC)=O)=O | C18H22N2O2S
